US04916148
A mixture of 7-methoxy-1-tetralone (7.8 g), ethyl trifluoroacetate (6 ml), sodium hydride (80% dispersion in mineral oil, 1.8 g) and tetrahydrofuran (75 ml) was stirred under reflux for 2 h under an atmosphere of argon. The cooled reaction mixture was treated with 20% acetic acid solution (250 ml) and the mixture was extracted twice with ethyl acetate. The extracts were combined, dried and evaporated to dryness under reduced pressure, and the residue was recrystallised from ethanol to give 7-methoxy-2-(2,2,2-trifluoracetyl)-1-tetralone, m.p. 89°-90°.

reactant | 7-methoxy-1-tetralone | 7.8 g | COC1=CC=C2CCCC(C2=C1)=O | C11H12O2
reactant | ethyl trifluoroacetate | 6 ml | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium hydride | 1.8 g | [H-].[Na+]
reactant | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 7-methoxy-2-(2,2,2-trifluoracetyl)-1-tetralone | COC1=CC=C2CCC(C(C2=C1)=O)C(C(F)(F)F)=O | C13H11F3O3
